US06337403B1
1(i) 4-[(1E,3E)-5-Oxo-1,3-pentadienyl]benzonitrile
A solution of 13.1 g (99 mmol) of 4-formylbenzonitrile (commercially available) and 40 g (120 mmol) of (triphenylphosphoranylidene)crotonaldehyde [prepared as described in Tetrahedron Lett., 493 (1971)] in 200 ml of dichloromethane was stirred at ambient temperature overnight. At the end of this time, the reaction mixture was concentrated to dryness in vacuo. The resulting residue was purified by chromatography on a silica gel (250 g) column using ethyl acetate as the eluant to give a mixture of the desired compound and a geometrical isomer thereof. A solution of the mixture of the two isomers in 150 ml of toluene was heated at reflux under irradiation with a tungsten lamp (300 W) for 12 hours. The reaction mixture was then concentrated in vacuo. The resulting residue was purified by chromatography on a silica gel (1.2 kg) column using a 1:9 mixture of ethyl acetate and toluene as the eluant to afford 3.46 g (yield 19%) of the title compound as pale brown needle-like crystals which were collected by filtration.

reactant | 4-formylbenzonitrile | 99 mmol, 13.1 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | (triphenylphosphoranylidene)crotonaldehyde | 120 mmol, 40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=C/C=C/C=O | C22H19OP
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-[(1E,3E)-5-Oxo-1,3-pentadienyl]benzonitrile | O=C/C=C/C=C/C1=CC=C(C#N)C=C1 | C12H9NO
